US05061706
A solution of 2.0 g (5.9 mmol) N-ethoxalyl-4-chloro-6-nitro-3-trifluoromethylaniline in 50 ml dimethylformamide was hydrogenated at atm. pressure by using 200 mg 5% Pt-C as a catalyst. The reaction mixture was stirred with 4N hydrochloric acid and the crude product was filtered off. The crude product was dissolved in 25 ml 1N potassium hydroxide and the solution was acidified with concentrated hydrochloric acid. The precipitate was filtered off to give 310 mg 19%) of 7-chloro-1-hydroxy-6-trifluoromethylquinoxaline-2,3(1H,4H)-dione. M.p. decomp. MS (m/e): 280, 1H-NMR (DMSO-d6): 12.2 (1H, broad s), 7.6 (2H, m).

reactant | N-ethoxalyl-4-chloro-6-nitro-3-trifluoromethylaniline | 5.9 mmol, 2.0 g | C(=O)(C(=O)OCC)NC1=CC(=C(C=C1[N+](=O)[O-])Cl)C(F)(F)F | C11H8ClF3N2O5
reactant | hydrochloric acid | 4N | Cl | ClH
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
catalyst | Pt-C | 200 mg | [Pt] | Pt
product | 7-chloro-1-hydroxy-6-trifluoromethylquinoxaline-2,3(1H,4H)-dione | ClC1=C(C=C2NC(C(N(C2=C1)O)=O)=O)C(F)(F)F | C9H4ClF3N2O3
